US07217724B2
To a solution of ethyl (((3-(2-oxoethyl)-1H-indol-7-yl)oxy)acetate (103 mg, 0.394 mmol) in methylene chloride (10 mL) are added 4-((2S)-2-amino-(1R)-1-hydroxypropyl)phenol (J. Med. Chem., vol. 20, no. 7, p. 978 (1977)) (72 mg, 0.431 mmol), sodium triacetoxy borohydride (126 mg, 0.595 mmol) under nitrogen atmosphere, and the mixture is stirred at room temperature for 5 hours. The reaction solution is poured into water, and the mixture is extracted with chloroform. The organic layer is washed with a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated, and the obtained crude product is purified by silica gel column chromatography (chloroform:methanol=50:1→30:1→10:1) to give ethyl (((3-(2-(((1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl)amino)ethyl)-1H-indol-7-yl) oxy) acetate (119 mg, 0.288 mmol, yield: 73%).

reactant | ((3-(2-oxoethyl)-1H-indol-7-yl)oxy)acetate | 0.394 mmol, 103 mg | O=CCC1=CNC2=C(C=CC=C12)OCC(=O)[O-]
reactant | 4-((2S)-2-amino-(1R)-1-hydroxypropyl)phenol | N[C@H]([C@H](O)C1=CC=C(C=C1)O)C | C9H13NO2
reactant | sodium triacetoxy borohydride | 0.595 mmol, 126 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | ((3-(2-(((1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl)amino)ethyl)-1H-indol-7-yl) oxy) acetate | 0.288 mmol, 119 mg, yield: 73% | C(C)(=O)OOC=1C=CC=C2C(=CNC12)CCN[C@H]([C@@H](C1=CC=C(C=C1)O)O)C | C21H24N2O5
